US08013003B2
tert-Butyl-4-[([2,1,3]-benzoxadiazol-5-ylcarbonyl)(methyl)amino]piperidine-1-carboxylate
Methylamine (generated by heating a mixture of 10 g of methylamine hydrochloride and 18 g of sodium hydroxide) was condensed into a solution of Boc-4-piperidone (3.5 g, 17.6 mmol) in methanol (30 ml) and THF (30 ml). 10% Pd on C (600 mg) was added and the mixture was hydrogenated at room temperature for 18 hours. The solids were filtered off, washed with methanol (20 ml) and concentrated under vacuum. The residue was dissolved in chloroform (50 ml) and NEt3 (4 ml), and a solution of [2,1,3]-benzoxadiazole-5-carbonylchloride (2.1 g, 11.5 mmol) in dichloromethane (20 ml) was added slowly. After stirring the mixture for 1 h, the organic phase was washed with water (100 ml) and H2SO4 (→pH 2) and NaHCO3 solution (100 ml). The aqueous was extracted with chloroform (100 ml), the organics combined, dried (MgSO4) and concentrated under vacuum to give an oil. The crude product was purified by silica gel chromatography eluting with ethyl acetate/hexane (40:60) →(60:40) to give a white solid after crystallization from MTBE/hexane (3.14 g). Mp=98-100° C., LC-MS, MH+=361; 1H NMR (300 MHz, CDCl3) δ 7.93 (d, J=9.0 Hz, 1H); 7.84 (s, 1H); 7.42 (d, J=9.0 Hz, 1H); 4.80-3.40 (m, 5H); 3.10-2.85 (m, 3H); 1.90-1.60 (m, 4H); 1.47 ppm (s, 9H).

reactant | Methylamine | CN | CH5N
reactant | methylamine hydrochloride | 10 g | Cl.CN
reactant | sodium hydroxide | 18 g | [OH-].[Na+]
reactant | Boc-4-piperidone | 17.6 mmol, 3.5 g | C(=O)(OC(C)(C)C)N1CCC(CC1)=O | C10H17NO3
reactant | [2,1,3]-benzoxadiazole-5-carbonylchloride | 11.5 mmol, 2.1 g | N=1ON=C2C1C=CC(=C2)C(=O)Cl | C7H3ClN2O2
solvent | methanol | 30 ml | CO | CH4O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | NEt3 | 4 ml | CCN(CC)CC | C6H15N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
catalyst | Pd | [Pd] | Pd
product | tert-Butyl-4-[([2,1,3]-benzoxadiazol-5-ylcarbonyl)(methyl)amino]piperidine-1-carboxylate | C(C)(C)(C)OC(=O)N1CCC(CC1)N(C)C(=O)C1=CC=2C(=NON2)C=C1 | C18H24N4O4
